US08049016B2
Synthesis of 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with pyridin-3-ylmethanamine to react with 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 40% yield: 1H NMR (300 MHz, CDCl3) δ 8.58-8.52 (m, 2H), 7.69-7.66 (m, 1H), 7.28-7.23 (m, 1H), 6.20-6.17 (m, 1H), 4.57 (d, J=5.8 Hz, 2H), 4.12-4.07 (m, 2H), 3.61-3.55 (m, 2H), 3.10 (d, J=7.4 Hz, 2H), 2.61 (s, 3H), 1.96-1.87 (m, 1H), 0.92 (d, J=6.6 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.4, 155.6, 153.5, 149.1, 148.7, 135.5, 133.9, 123.5, 116.6, 51.5, 42.8, 41.9, 41.2, 26.7, 19.9, 17.2; MS (ES+) m/z 373.9 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H17N3O3S
product | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 40% yield | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C18H23N5O2S
